US04096142
A mixture of 30 mg of 3β ,19-diacetoxy-14β-hydroxy-17β-pivaloxy-5α-androstane and 3.0 ml of 0.2 N methanolic potassium hydroxide was heated at 70° C. for 16 hours under nitrogen whereupon the mixture was neutralized with 0.2 N glacial acetic acid in ethyl acetate and evaporated to dryness at reduced pressure. The residue obtained was treated with ethyl acetate and filtered through diatomaceous earth. Evaporation of the filtrate yielded 3β ,14β ,17β ,19-tetrahydroxy-5α-androstane as indicated by tlc analysis.

reactant | 3β ,19-diacetoxy-14β-hydroxy-17β-pivaloxy-5α-androstane | 30 mg | C(C)(=O)O[C@@H]1C[C@@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)COC(C)=O)OC(C(C)(C)C)=O)O | C28H44O7
reactant | potassium hydroxide | 0.2 N, 3.0 ml | [OH-].[K+]
reactant | acetic acid | 0.2 N | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3β ,14β ,17β ,19-tetrahydroxy-5α-androstane | O[C@@H]1C[C@@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)CO)O)O | C19H32O4
